US04920136
2-Amino-5-bromoacetyl-3-cyano-6-methyl-pyridine
2.7 g (15.4 mmol) of 5-acetyl-2-amino-3-cyano-6-methyl-pyridine are suspended in 110 ml of glacial acetic acid, and 1.9 ml (16.2 mmol) of 48% strength HBr are added. Then 5.2 g (32.4 mmol) of bromine are added, and the mixture is stirred at 45° C. for five hours. After cooling, the mixture is filtered with suction and the filter cake is stirred with NaHCO3 solution, filtered with suction and dried. Recrystallization from ethanol is used for purification.

reactant | 5-acetyl-2-amino-3-cyano-6-methyl-pyridine | 15.4 mmol, 2.7 g | C(C)(=O)C=1C=C(C(=NC1C)N)C#N | C9H9N3O
reactant | HBr | Br | BrH
reactant | bromine | 32.4 mmol, 5.2 g | BrBr | Br2
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-5-bromoacetyl-3-cyano-6-methyl-pyridine | NC1=NC(=C(C=C1C#N)C(CBr)=O)C | C9H8BrN3O
